US04368150
Synthesis of pentamethylbenzenesulfonyl chloride
In 500 ml of dichloromethane was dissolved 17.8 g of pentamethylbenzene and the solution was cooled to -5°~-10° C. A solution of 24 ml of chlorosulfonic acid in 400 ml of dichloromethane was added dropwise, and the mixture was allowed to stand at room temperature. The reaction mixture was poured into ice-5% aqueous sodium hydrogen carbonate. The organic layer was washed with water and dried over magnesium sulfate. Removal of the solvent by distillation leaves crystals which were collected by filtration and recrystallized from n-hexane. Yield 27.7 g (93.5%), m.p. 80°-81° C.

reactant | pentamethylbenzene | 17.8 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | chlorosulfonic acid | 24 ml | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | pentamethylbenzenesulfonyl chloride | CC1=C(C(=C(C(=C1S(=O)(=O)Cl)C)C)C)C | C11H15ClO2S
